US06777418B2
To a solution of 2.0 g (6.6 mmol ) of 2,2,4,4,7,9,9-heptamethyl-3a,4,9,9a-tetrahydro-naphtho[2,3-d][1,3]-trans-dioxole-6-carbaldehyde and 2.2 g (8.6 mmol) of 4-(Dimethoxy-phosphorylmethyl)-benzoic acid methyl ester in 50 ml of toluene at 0° was added 5.6 ml of 1.7 M (8.6 mmol) of potassium tert-pentylate in toluene. After 1.5 h, poured into brine, extracted with ethyl acetate, dried over sodium sulfate and adsorbed onto silica gel. Purified by flash chromatography (gradient elution: hexane-2% ethyl acetae/hexane) to give 2.5 g (87%) of 4-[(E)-2-(2,2,4,4,7,9,9)-heptamethyl-3a,4,9,9a-tetrahydro-naphtho[2,3d][1,3]-trans-dioxol-6-yl)-vinyl]-benzoic acid methyl ester.

reactant | 4-(Dimethoxy-phosphorylmethyl)-benzoic acid methyl ester | 8.6 mmol, 2.2 g | COC(C1=CC=C(C=C1)CP(=O)(OC)OC)=O | C11H15O5P
reactant | potassium tert-pentylate | 8.6 mmol, 1.7 M | CCC(C)(C)[O-].[K+]
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
solvent | brine | [Cl-].[Na+].O
product | benzoic acid methyl ester | COC(C1=CC=CC=C1)=O | C8H8O2
